US05736487
15(a) Methyl N-(4-hydroxy-2-methylphenyl)carbamate
12.0 g of potassium carbonate were added to a solution of 100 g of 4-amino-3-methylphenol in 400 ml of acetone cooled in an ice-water bath, followed by the addition of 80 ml of methyl chloroformate at the same temperature. The resulting mixture was stirred at the same temperature for 3 hours, at the end of which time the reaction mixture was filtered. The resulting filtrate was concentrated under reduced pressure to give 151 g (yield 100%) of the title compound as an amorphous powder.

reactant | potassium carbonate | 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-3-methylphenol | 100 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | methyl chloroformate | 80 ml | ClC(=O)OC | C2H3ClO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | Methyl N-(4-hydroxy-2-methylphenyl)carbamate | 151 g, yield 100% | OC1=CC(=C(C=C1)NC(OC)=O)C | C9H11NO3
